US06855774B2
15 g (19.7 mmol) of 2,2-bis[N-(2-nitrophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane synthesized above were dissolved in 200 ml of ethyl acetate. Thereto was added 800 mg of 10% palladium carbon as a catalyst, and replacement with hydrogen was then carried out. After that, reaction was conducted at room temperature under a hydrogen pressure of 1.01 MPa (10 atm) for 18 hours with stirring vigorously. The obtained reaction solution was filtered with cerite to remove the catalyst, and ethyl acetate was removed under reduced pressure. The obtained crude product was refined by using silica gel chromatography (hexane: ethyl acetate=2:1), and recrystallized by using a chloroform-hexane mixed solution, and ethanol-water mixed solution to obtain 12.4 g of 2,2-bis[N-(2-aminophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane (hereinafter EPNPN) in white solid (yeild: 90%).

reactant | 2,2-bis[N-(2-nitrophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane | 19.7 mmol, 15 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC=C(C=C2)NC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C39H26F6N4O6
reactant | hydrogen | [H][H] | H2
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 800 mg | [C].[Pd]
product | 2,2-bis[N-(2-aminophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane | 12.4 g | NC1=C(C=CC=C1)NC1=CC=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC=C(C=C2)NC2=C(C=CC=C2)N)C=C1 | C39H30F6N4O2
